2119-08-06 09:05:00 Physician Attending Progress Note
Chief Complaint: BRBPR
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   s/p banding of esophageal varices
   24 Hour Events:
 ENDOSCOPY - At [**2119-8-5**] 09:20 AM
 BRONCHOSCOPY - At [**2119-8-5**] 10:20 AM
 INVASIVE VENTILATION - START [**2119-8-5**] 10:40 AM
 COLONOSCOPY - At [**2119-8-5**] 11:00 AM
   Stable on vent overnight. Colonoscopy tomorrow.
   Hct stable, no further bleeding anywhere
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2119-8-5**] 01:38 PM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2119-8-5**] 10:11 PM
   Midazolam (Versed) - [**2119-8-6**] 04:30 AM
   Fentanyl - [**2119-8-6**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-8-6**] 08:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.3
C (97.3
   HR: 73 (57 - 74) bpm
   BP: 103/57(67) {81/49(57) - 115/67(78)} mmHg
   RR: 13 (11 - 23) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 9 (9 - 59)mmHg
   Total In:
                                                                 11,018 mL
                                                                    966 mL
   PO:
   TF:
   IVF:
                                                                  9,277 mL
                                                                    966 mL
   Blood products:
                                                                  1,741 mL
   Total out:
                                                                  1,870 mL
                                                                    490 mL
   Urine:
                                                                  1,870 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  9,148 mL
                                                                    476 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 732 (302 - 836) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 33
   PIP: 11 cmH2O
   Plateau: 21 cmH2O
   SpO2: 93%
   ABG: 7.34/35/220/22/-5
   Ve: 8.3 L/min
   PaO2 / FiO2: 440
   Physical Examination
   GEN: sedated, intubated, but follows all commands
   HEENT: EOMI, slight icterus, OP - no exudate, no erythema, MMM, no
   cervical LAD, 2 cm linear cut on R chin without overt bleeding, JVD 9
   CHEST: CTAB, no w/r/r
   CV: bradycardia, no m/r/g
   ABD: NDNT, soft, decreased BS, splenomegaly
   EXT: no c/c/e
   NEURO: A&O x 3
   DERM: no rashes noted
   Labs / Radiology
   9.5 g/dL
   204 K/uL
   126 mg/dL
   0.7 mg/dL
   22 mEq/L
   3.8 mEq/L
   24 mg/dL
   115 mEq/L
   144 mEq/L
   28.3 %
   7.1 K/uL
        [image002.jpg]
                             [**2119-8-4**]  10:46 PM
                             [**2119-8-5**]  03:44 AM
                             [**2119-8-5**]  05:01 AM
                             [**2119-8-5**]  12:03 PM
                             [**2119-8-5**]  12:16 PM
                             [**2119-8-5**]  01:18 PM
                             [**2119-8-5**]  08:40 PM
                             [**2119-8-6**]  04:23 AM
   WBC
   5.7
   4.7
   7.1
   Hct
   24.5
   28
   27.3
   28.4
   28.5
   28.3
   Plt
   [**Telephone/Fax (3) 8320**]
   Cr
   0.6
   0.5
   0.7
   0.7
   TropT
   <0.01
   TCO2
   20
   Glucose
   115
   122
   135
   126
   Other labs: PT / PTT / INR:17.6/38.9/1.6, CK / CKMB /
   Troponin-T:87//<0.01, ALT / AST:23/23, Alk Phos / T Bili:111/3.5,
   Differential-Neuts:80.3 %, Lymph:15.0 %, Mono:2.4 %, Eos:1.9 %, Lactic
   Acid:1.1 mmol/L, LDH:222 IU/L, Ca++:6.8 mg/dL, Mg++:1.9 mg/dL, PO4:4.4
   mg/dL
   CXR: bibasilar atelectasis/infiltrate, high ETT
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 HYPOTENSION (NOT SHOCK)
   50 yo m w/ antiphospholipid syndrome c/b portal v and sup mesenteric v
   thrombosis and prior partial hepatic v inclusion on Lovenox (failed
   coumadin with recurrent clot), grade III esophageal varices, and portal
   gastropathy, presents after syncopal episode while walking to BR and
   with BRBPR X 2 days. Esophageal varices banded yesterday. Needs
   colonoscopy. Intubated for desat during procedure, stable since then.
   Bibasilar aspiration on CXR but no fever/leukocytosis.
   - GI: Hct stable. Prep for colonoscopy tomorrow. Start nadolol when
   able to take po. On ppi and octreotide drip. SBP ppx with Ceftriaxone
   - HD: stable
   - Resp: Stable on [**6-20**], d/c sedation and extubate
   - Antiphospholipid Syndrome: c/b portal vein thrombosis
   hold anticoagulation given active bleeding
   - Rest per housestaff note
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   CVL
   Prophylaxis:
   DVT: hold HSQ and lovenox given active bleeding, boots
   Stress ulcer: IV PPI
   VAP:
   Comments:
   Communication:  Comments: With patient, ICU consent signed
   Code status: FULL
   Disposition: ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Stable on vent overnight. Banded yesterday, [**Last Name (un) **] unsuccessful.
   Exam notable for Tmax: 37.3
C (99.1
F)  Tcurrent: 36.3
C (97.3
   HR: 73 (57 - 74) bpm  BP: 103/57(67) {81/49(57) - 115/67(78)} mmHg  RR:
   13 (11 - 23) insp/min  SpO2: 93%  Heart rhythm: SR (Sinus Rhythm)
   CVP: 9 (9 - 59)mmHg
   Balance:   9,148 mL
   PSV 5/5/0.5   Vt (Spontaneous): 732 (302 - 836) mL   RR 16   RSBI: 33
   SpO2: 93%
   ABG: 7.34/35/220    Ve: 8.3 L/min   PaO2 / FiO2: 440
   Intubated, following commands
   Lungs clear
   RRR
   Abd benign
   Extreme no edema
   Labs reviewed and recorded above
   Imaging:  CXR low lung volumes, possible infiltrate LLL
   Problems: GI bleed, portal HTN, blood loss anemia, resp failure, ? LLL
   pna
   Agree with plan to wean vent and consider extubation once secretions
   improve, cont abx, follow Hct, eventual [**Last Name (un) **], holding anticoag
   Remainder of plan as outlined above.
   Patient is critically ill.
   Total time: 36 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 453**] [**Last Name (NamePattern1) **], MD
   on:[**2119-8-6**] 14:33 ------

2119-08-07 06:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Prepared for extubation, but O2 sats dropped to 88% and did not
   recover quickly. Increased PEEP. Diuresed 1.3 L with 10 mg IV Lasix.
   Repeat CXR without change. Suctioned thick secretions. Decreased FIO2
   over course of day, with sat 93-95%
   -Hepatology recs: continue octreotide gtt until after rectal varices
   banded.  Prep for colonoscopy--unable to do b/c does not have NGT,
   continue Ceftriaxone
   -PM HCT--27.9, stable.
   -Thick secretions this morning, decreased to [**6-20**] but desaturated  to
   87-88%.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2119-8-6**] 02:00 PM
   Infusions:
   Fentanyl - 100 mcg/hour
   Octreotide - 50 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2119-8-6**] 10:22 AM
   Midazolam (Versed) - [**2119-8-6**] 08:00 PM
   Pantoprazole (Protonix) - [**2119-8-6**] 08:20 PM
   Fentanyl - [**2119-8-7**] 05:28 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-8-7**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37
C (98.6
   HR: 75 (69 - 85) bpm
   BP: 118/63(76) {95/52(63) - 120/74(85)} mmHg
   RR: 14 (10 - 14) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 21 (10 - 22)mmHg
   Total In:
                                                                  1,568 mL
                                                                    233 mL
   PO:
   TF:
   IVF:
                                                                  1,568 mL
                                                                    233 mL
   Blood products:
   Total out:
                                                                  2,675 mL
                                                                    650 mL
   Urine:
                                                                  2,675 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,107 mL
                                                                   -417 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 760 (732 - 912) mL
   PS : 5 cmH2O
   RR (Spontaneous): 14
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 14 cmH2O
   SpO2: 92%
   ABG: ///22/
   Ve: 9.9 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Thin, Anxious
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Bronchial: )
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   193 K/uL
   9.5 g/dL
   99 mg/dL
   0.7 mg/dL
   22 mEq/L
   3.7 mEq/L
   20 mg/dL
   112 mEq/L
   143 mEq/L
   27.9 %
   6.3 K/uL
        [image002.jpg]
                             [**2119-8-4**]  10:46 PM
                             [**2119-8-5**]  03:44 AM
                             [**2119-8-5**]  05:01 AM
                             [**2119-8-5**]  12:03 PM
                             [**2119-8-5**]  12:16 PM
                             [**2119-8-5**]  01:18 PM
                             [**2119-8-5**]  08:40 PM
                             [**2119-8-6**]  04:23 AM
                             [**2119-8-6**]  04:30 PM
                             [**2119-8-7**]  04:06 AM
   WBC
   5.7
   4.7
   7.1
   6.3
   Hct
   24.5
   28
   27.3
   28.4
   28.5
   28.3
   27.9
   27.9
   Plt
   [**Telephone/Fax (3) 8340**]93
   Cr
   0.6
   0.5
   0.7
   0.7
   0.7
   TropT
   <0.01
   TCO2
   20
   Glucose
   115
   122
   135
   126
   99
   Other labs: PT / PTT / INR:17.6/38.9/1.6, CK / CKMB /
   Troponin-T:87//<0.01, ALT / AST:23/23, Alk Phos / T Bili:111/3.5,
   Differential-Neuts:80.3 %, Lymph:15.0 %, Mono:2.4 %, Eos:1.9 %, Lactic
   Acid:1.1 mmol/L, LDH:222 IU/L, Ca++:7.6 mg/dL, Mg++:1.7 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
   50 y.o. M with antiphospholipid syndrome c/b portal vein thrombosis and
   superior mesenteric vein thrombosis with prior partial hepatic vein
   inclusion on Lovenox, grade III esophageal varices, portal gastropathy,
   who presents with BRBPR.
   1. BRBPR: Likely secondary to hemorrhoids vs rectal varices.  Blood
   pressure has been stable, hematocrit has been stable.
   - Prep today with enemas
 flex sig by hepatology
   - IV PPI
   - active t/s, follow HCT
   - octreotide gtt
   - consider CVL and a-line should patient become HD unstable
has not
   needed
   - Ceftriaxone for ppx per GI
   - QD Hct
   2. Hypotension: Likely secondary to acute blood loss from rectal bleed;
   now SBP high 90-low 100s without need for additional fluid boluses for
   hypotension or blood transfusion since yesterday morning.  Continued on
   maintenance fluid.
   -Bolus for MAP <60
   3. Indirect Hyperbilirubinemia: Likely hemolysis [**3-20**] splenomegaly.
   - add on LDH, haptoglobin, reticulocyte count
   - trend
   4. Antiphospholipid Syndrome: c/b portal vein thrombosis
   - hold anticoagulation given active bleeding
   - consider reversal for GI scope with FFP
   5. Hyperkalemia: hemolyzed specimen, now normal
   6. Leukocytosis: Likely stress reaction due to GI bleed, now
   normalized
   7. Esophageal Varices: seen on ERCP in [**2119-5-17**], hold nadolol so as
   not to mask hypotension
   # Respiratory failure:  plan for extubation today. Hold sedation, do
   SBT as O2 sat borderline low after aggressive volume/blood
   resuscitation.
   FEN: IVF boluses / replete lytes prn / NPO
   PPX: hold HSQ/Lovenox, pneumoboots, bowel regimen prn, IV PPI
   ACCESS: 2 18 gauge PIVs
   CODE STATUS: FULL (confirmed)
   EMERGENCY CONTACT: [**Name (NI) **] (daughter) [**Telephone/Fax (1) 8297**]
   DISPOSITION: consent in chart, ICU pending resolution of above
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   18 Gauge - [**2119-8-4**] 10:49 PM
   Multi Lumen - [**2119-8-5**] 02:14 AM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:  lansoprazole
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2119-08-07 10:46:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   50 yo man with antiphospholipid Ab syndrome, c/b portal vein, superior
   mesenteric, and partial hepatic vein thrombosis on lovenox.  With grade
   III varices - admitted with UGIB.  C/b aspiration/respiratory failure
   during EGD.  Has improved and down to PSV 5/5, but having increased
   secretions and episodic desaturation.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2119-8-6**] 02:00 PM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2119-8-6**] 08:00 PM
   Pantoprazole (Protonix) - [**2119-8-6**] 08:20 PM
   Fentanyl - [**2119-8-7**] 05:28 AM
   Other medications:
   ursadiol
   ceftriaxone
   chlorhexidine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-8-7**] 10:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 36.7
C (98
   HR: 70 (69 - 85) bpm
   BP: 118/85(93) {95/52(63) - 120/85(93)} mmHg
   RR: 12 (10 - 16) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
   CVP: 13 (10 - 22)mmHg
   Total In:
                                                                  1,569 mL
                                                                    364 mL
   PO:
   TF:
   IVF:
                                                                  1,569 mL
                                                                    364 mL
   Blood products:
   Total out:
                                                                  2,675 mL
                                                                    840 mL
   Urine:
                                                                  2,675 mL
                                                                    840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,106 mL
                                                                   -476 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 737 (733 - 912) mL
   PS : 5 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: ///22/
   Ve: 8.3 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : right base, No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm, Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   193 K/uL
   99 mg/dL
   0.7 mg/dL
   22 mEq/L
   3.7 mEq/L
   20 mg/dL
   112 mEq/L
   143 mEq/L
   27.9 %
   6.3 K/uL
        [image002.jpg]
                             [**2119-8-4**]  10:46 PM
                             [**2119-8-5**]  03:44 AM
                             [**2119-8-5**]  05:01 AM
                             [**2119-8-5**]  12:03 PM
                             [**2119-8-5**]  12:16 PM
                             [**2119-8-5**]  01:18 PM
                             [**2119-8-5**]  08:40 PM
                             [**2119-8-6**]  04:23 AM
                             [**2119-8-6**]  04:30 PM
                             [**2119-8-7**]  04:06 AM
   WBC
   5.7
   4.7
   7.1
   6.3
   Hct
   24.5
   28
   27.3
   28.4
   28.5
   28.3
   27.9
   27.9
   Plt
   [**Telephone/Fax (3) 8340**]93
   Cr
   0.6
   0.5
   0.7
   0.7
   0.7
   TropT
   <0.01
   TCO2
   20
   Glucose
   115
   122
   135
   126
   99
   Other labs: PT / PTT / INR:17.6/38.9/1.6, CK / CKMB /
   Troponin-T:87//<0.01, ALT / AST:23/23, Alk Phos / T Bili:111/3.5,
   Differential-Neuts:80.3 %, Lymph:15.0 %, Mono:2.4 %, Eos:1.9 %, Lactic
   Acid:1.1 mmol/L, LDH:222 IU/L, Ca++:7.6 mg/dL, Mg++:1.7 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):  Aspiration PNA during
   EGD.  Looks great on PSV 5/5.  Will extubate after sigmoidoscopy
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB):
   no further BRB.  To get sigmoidoscopy
 HYPOTENSION (NOT SHOCK):  no further HOTN
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2119-8-4**] 10:49 PM
   Multi Lumen - [**2119-8-5**] 02:14 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2119-08-08 05:38:00 Physician Resident Progress Note
24 Hour Events:
 BRONCHOSCOPY - At [**2119-8-7**] 03:50 PM
 URINE CULTURE - At [**2119-8-8**] 03:22 AM
   - s/p flex sig with single rectal varices --> injected
   - Liver: will need prep for [**Last Name (un) **] for 3 polyps, continue ceftriaxone and
   octreotide x 5 days
   - pt acutely desat'ed to 60s after cleaning, mucus plug, bronched pt
   and had to do recruitment maneuver before O2 sat recovered
   - expanded Abx to cipro/zosyn/vanc per ID for VAP after CXR showed new
   RML infiltrate
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2119-8-7**] 02:45 PM
   Vancomycin - [**2119-8-7**] 05:18 PM
   Piperacillin - [**2119-8-7**] 06:46 PM
   Clindamycin - [**2119-8-7**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2119-8-8**] 12:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Octreotide - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Fentanyl - [**2119-8-7**] 12:00 PM
   Midazolam (Versed) - [**2119-8-7**] 12:00 PM
   Pantoprazole (Protonix) - [**2119-8-7**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-8-8**] 05:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 69 (65 - 86) bpm
   BP: 113/72(82) {103/52(65) - 127/85(93)} mmHg
   RR: 18 (10 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 12 (12 - 20)mmHg
   Total In:
                                                                  1,236 mL
                                                                    261 mL
   PO:
   TF:
   IVF:
                                                                  1,236 mL
                                                                    261 mL
   Blood products:
   Total out:
                                                                  1,360 mL
                                                                    185 mL
   Urine:
                                                                  1,360 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -124 mL
                                                                     76 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 550) mL
   Vt (Spontaneous): 880 (635 - 880) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 24
   PIP: 24 cmH2O
   Plateau: 17 cmH2O
   Compliance: 45.8 cmH2O/mL
   SpO2: 96%
   ABG: 7.35/47/104/24/0
   Ve: 12.4 L/min
   PaO2 / FiO2: 208
   Physical Examination
   General Appearance: Well nourished, No acute distress, Thin, Anxious
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal) regular
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Bronchial: )
   Abd: + BS, soft, nontender
   Extremities: Right: Absent, Left: Absent
   Skin:  no rashes
   Neurologic: arousable to name, follows commands
   Labs / Radiology
   159 K/uL
   8.7 g/dL
   111 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.7 mEq/L
   16 mg/dL
   109 mEq/L
   141 mEq/L
   26.2 %
   4.3 K/uL
        [image002.jpg]
                             [**2119-8-5**]  05:01 AM
                             [**2119-8-5**]  12:03 PM
                             [**2119-8-5**]  12:16 PM
                             [**2119-8-5**]  01:18 PM
                             [**2119-8-5**]  08:40 PM
                             [**2119-8-6**]  04:23 AM
                             [**2119-8-6**]  04:30 PM
                             [**2119-8-7**]  04:06 AM
                             [**2119-8-7**]  08:00 PM
                             [**2119-8-8**]  03:12 AM
   WBC
   4.7
   7.1
   6.3
   4.3
   Hct
   27.3
   28.4
   28.5
   28.3
   27.9
   27.9
   26.2
   Plt
   188
   204
   193
   159
   Cr
   0.5
   0.7
   0.7
   0.7
   0.6
   TropT
   <0.01
   TCO2
   20
   27
   Glucose
   122
   135
   126
   99
   111
   Other labs: PT / PTT / INR:17.6/38.9/1.6, CK / CKMB /
   Troponin-T:87//<0.01, ALT / AST:23/23, Alk Phos / T Bili:111/3.5,
   Differential-Neuts:80.3 %, Lymph:15.0 %, Mono:2.4 %, Eos:1.9 %, Lactic
   Acid:1.1 mmol/L, LDH:222 IU/L, Ca++:7.6 mg/dL, Mg++:1.7 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
   50 y.o. M with antiphospholipid syndrome c/b portal vein thrombosis and
   superior mesenteric vein thrombosis with prior partial hepatic vein
   inclusion on Lovenox, grade III esophageal varices, portal gastropathy,
   who presents with BRBPR.
   1. BRBPR: s/p variceal banding and injection into rectal varix. No
   further bleeding and hematocrit has been stable
   -PPI, octreotide gtt
   -Following hematocrit, has been stable and no bleeding, so can do daily
   -Hepatology ultimately wants to do colonoscopy after full prep, once
   resp status stabilizes
   2. Pneumonia/Resp failure: treating for VAP with Zosyn/Cipro/Vanc.
   Both sputum with OP flora. Improved after desaturation from plugging
   yesterday s/p bronch/recruitment maneuver
   -deep suction then extubate
   -change antibiotics back to Ceftriaxone X 8 day total course.
   -I/O goal 1L neg, given 10 mg IV lasix already this morning.
   3. Hypotension:  resolved, BP stable. Can restart nadolol once resp
   status normalizes and safely extubated/tolerating po
   4. Antiphospholipid Syndrome: c/b portal vein thrombosis
   - hold anticoagulation given active bleeding
   - consider reversal for GI scope with FFP
   5.  Leukocytosis: Likely stress reaction due to GI bleed, now
   normalized
   ICU Care
   Nutrition: NPO, clear liquid diet after extubation
   Glycemic Control:  Glucose stable
   Lines:
   Multi Lumen - [**2119-8-5**] 02:14 AM
   Prophylaxis:
   DVT: Boots,
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU
   ------ Protected Section ------
   Patient seen and examined with housestaff and Dr. [**Last Name (STitle) 691**].  Reviewed
   above note with which I agree.  Would add/emphasize:
   50 yo man with antiphospholipid antibody disease, admitted with
   variceal bleed, c/b aspiration PNA/respiratory failure.  Patient  with
   flex sig yesterday, had rectal varix injected.  Also desaturated with
   bloody mucous plug in LLL.   Responded to bronch and recruitment
   maneuver.  This morniing if doing well.  Moving all 4 extremeties
   o/e:  mild rhonchi in lungs;  alert following commands  moving all
   extremeties
   a/p
   Respiratory failure:  Looks great on SBT will extubate
   GIB:  Stable.  No further bleeding
   Aspiration PNA:  No evidence of recurrently PNA, so will just complete
   course of CTX for 7 days.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 347**], MD
   on:[**2119-8-8**] 11:37 ------
   Addedum to above note:
   CC 35minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 347**], MD
   on:[**2119-8-8**] 11:38 ------

2119-08-08 10:08:00 Physician Attending Progress Note
Chief Complaint:  angioedema
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60 yo man s/p combined liver/kidney tx.  Course c/b BK nephropathy.
   Presents with upper lip swelling.  Started lisinopril on [**7-26**].
   Endorses nausea/vomitting and weakness since starting lisinopril.
   Yesterday noted lip swelling and tingling.  Took benedryl and extra
   prednisone with no improvement.  OSH ER BP noted to be 80/40.
   Responded to 1L NS.  Transferred to [**Hospital1 19**] ER where vitals noted to be
   stable.  Got benedryl, famotidine.   Denied stridor/SOB/voice changes.
   Allergies:
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Hives;  itching
   Cidofovir
   elevated liver
   Lisinopril
   angioedema;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2119-8-8**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2119-8-8**] 08:00 AM
   Other medications:
   calcium
   prednisone 5mg
   bactrim
   sirolimus
   zoloft
   lopressor XL
   benedryl
   famotidine
   colace
   tricor
   Past medical history:
   Family history:
   Social History:
   liver/renal transplant
   liver rejection
   BK nephropathy
   aortic stenosis
   HTN
   Meds:
   gemfribrozil
   lopressor
   protonix
   prednisone
   sertraline
   sirolimus
   father with CAD in 50's
   father with leukemia
   Occupation: retired high school counselor, married
   Drugs: none
   Tobacco: none
   Alcohol: none
   Other:
   Review of systems:
   Constitutional: No(t) Fever
   Eyes: No(t)  Blurry vision
   Ear, Nose, Throat: No(t) Dry mouth
   Cardiovascular: chest tightness
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, Nausea
   Genitourinary: No(t) Dysuria
   Musculoskeletal: No(t) Joint pain
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia
   Heme / Lymph: No(t) Anemia
   Neurologic: No(t) Headache
   Psychiatric / Sleep: No(t) Suicidal
   Allergy / Immunology: No(t) Immunocompromised
   Signs or concerns for abuse : No
   Flowsheet Data as of [**2119-8-8**] 09:51 AM
   Vital Signs
   Hemodynamic monitoring
   Fluid Balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 70 (68 - 79) bpm
   BP: 121/67(79) {95/57(68) - 121/73(84)} mmHg
   RR: 16 (12 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             750 mL
   PO:
             240 mL
   TF:
   IVF:
   510 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,100 mL
   Urine:
   1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -350 mL
   Respiratory
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///17/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, swelling in upper lip
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   185 K/uL
   34.4 %
   11.5 g/dL
   100 mg/dL
   3.2 mg/dL
   62 mg/dL
   17 mEq/L
   110 mEq/L
   5.0 mEq/L
   136 mEq/L
   4.5 K/uL
        [image002.jpg]
                             [**2119-8-8**]  04:43 AM
   WBC
                                     4.5
   Hct
                                    34.4
   Plt
                                     185
   Cr
                                     3.2
   Glucose
                                     100
   Other labs: PT / PTT / INR:10.6/24.3/0.9, ALT / AST:[**2-5**], Alk Phos / T
   Bili:93/0.2, Differential-Neuts:67.7 %, Lymph:21.7 %, Mono:8.2 %,
   Eos:2.2 %, Albumin:3.8 g/dL, LDH:211 IU/L, Ca++:8.6 mg/dL, Mg++:2.3
   mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   Angioedema of upper lip:  likely due to ACE inhibitor.
   Acute on chronic renal failure:  Creatinine worse than prior value.  BK
   virus PCR pending.
   Liver transplant:  f/u on rapamycin level given worseing renal function
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines / Intubation:
   20 Gauge - [**2119-8-8**] 03:43 AM
   Comments:
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Transfer to floor
   Total time spent: 35 minutes
   Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   50 you man with antiphospholipid antibody, variceal bleed. Aspriation
   PNA.
   24 Hour Events:
 BRONCHOSCOPY - At [**2119-8-7**] 03:50 PM
 URINE CULTURE - At [**2119-8-8**] 03:22 AM
   Patient with desaturation yesterday, likely due to mucous plug.
   Responded to bronch and recruitment maneuver.
   CXR with RML infiltrate, VAP antibiotics started.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2119-8-7**] 02:45 PM
   Piperacillin - [**2119-8-7**] 06:46 PM
   Clindamycin - [**2119-8-7**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2119-8-8**] 07:46 AM
   Vancomycin - [**2119-8-8**] 08:15 AM
   Ciprofloxacin - [**2119-8-8**] 09:24 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2119-8-7**] 08:00 PM
   Fentanyl - [**2119-8-8**] 06:06 AM
   Midazolam (Versed) - [**2119-8-8**] 06:06 AM
   Furosemide (Lasix) - [**2119-8-8**] 08:24 AM
   Other medications:
   ursadiol
   chlorhex
   atrovent
   cipro
   zosyn
   vanco
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-8-8**] 10:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 76 (65 - 86) bpm
   BP: 114/65(77) {103/52(65) - 127/85(93)} mmHg
   RR: 13 (10 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
   CVP: 13 (10 - 14)mmHg
   Total In:
                                                                  1,236 mL
                                                                    865 mL
   PO:
   TF:
   IVF:
                                                                  1,236 mL
                                                                    865 mL
   Blood products:
   Total out:
                                                                  1,360 mL
                                                                    890 mL
   Urine:
                                                                  1,360 mL
                                                                    890 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -124 mL
                                                                    -25 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 550) mL
   Vt (Spontaneous): 635 (635 - 880) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 24
   PIP: 24 cmH2O
   Plateau: 17 cmH2O
   Compliance: 45.8 cmH2O/mL
   SpO2: 95%
   ABG: 7.35/47/104/24/0
   Ve: 7.8 L/min
   PaO2 / FiO2: 208
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.7 g/dL
   159 K/uL
   111 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.7 mEq/L
   16 mg/dL
   109 mEq/L
   141 mEq/L
   26.2 %
   4.3 K/uL
         [image002.jpg]
                             [**2119-8-5**]  05:01 AM
                             [**2119-8-5**]  12:03 PM
                             [**2119-8-5**]  12:16 PM
                             [**2119-8-5**]  01:18 PM
                             [**2119-8-5**]  08:40 PM
                             [**2119-8-6**]  04:23 AM
                             [**2119-8-6**]  04:30 PM
                             [**2119-8-7**]  04:06 AM
                             [**2119-8-7**]  08:00 PM
                             [**2119-8-8**]  03:12 AM
   WBC
   4.7
   7.1
   6.3
   4.3
   Hct
   27.3
   28.4
   28.5
   28.3
   27.9
   27.9
   26.2
   Plt
   188
   204
   193
   159
   Cr
   0.5
   0.7
   0.7
   0.7
   0.6
   TropT
   <0.01
   TCO2
   20
   27
   Glucose
   122
   135
   126
   99
   111
   Other labs: PT / PTT / INR:17.6/38.9/1.6, CK / CKMB /
   Troponin-T:87//<0.01, ALT / AST:23/23, Alk Phos / T Bili:111/3.5,
   Differential-Neuts:80.3 %, Lymph:15.0 %, Mono:2.4 %, Eos:1.9 %, Lactic
   Acid:1.1 mmol/L, LDH:222 IU/L, Ca++:7.6 mg/dL, Mg++:1.7 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):  Aspiration PNA and fluid
   overload.  Cultures all negative.  Event yesterday likely
   mucous plug - no evidence for new VAP.  So will just complete prior
   course of CTX for 7 days.
   Looks good on PSV 5/5 - will go ahead with extubation
   Fluid overload:  continue lasix as needed
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB):
   No further bleed.  s/p flexible sigmoidoscopy had rectal varix
   injected.
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2119-8-5**] 02:14 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   Note wrote in error on wrong patient.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 347**], MD
   on:[**2119-8-8**] 11:09 ------

2119-08-09 06:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2119-8-8**] 10:30 AM
   -diuresed, 2 x 10mg IV lasix given w/ great response
   -extubated
   -given IV morphine for back pain
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2119-8-7**] 02:45 PM
   Piperacillin - [**2119-8-7**] 06:46 PM
   Clindamycin - [**2119-8-7**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2119-8-8**] 07:46 AM
   Vancomycin - [**2119-8-8**] 08:15 AM
   Ciprofloxacin - [**2119-8-8**] 09:24 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Fentanyl - [**2119-8-8**] 08:00 AM
   Midazolam (Versed) - [**2119-8-8**] 08:00 AM
   Lorazepam (Ativan) - [**2119-8-8**] 02:00 PM
   Haloperidol (Haldol) - [**2119-8-8**] 04:50 PM
   Furosemide (Lasix) - [**2119-8-8**] 05:20 PM
   Morphine Sulfate - [**2119-8-8**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-8-9**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.3
C (97.4
   HR: 65 (65 - 87) bpm
   BP: 118/70(82) {107/60(72) - 129/78(89)} mmHg
   RR: 20 (12 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 13 (13 - 14)mmHg
   Total In:
                                                                  1,276 mL
                                                                    120 mL
   PO:
   TF:
   IVF:
                                                                  1,276 mL
                                                                    120 mL
   Blood products:
   Total out:
                                                                  3,725 mL
                                                                    205 mL
   Urine:
                                                                  3,725 mL
                                                                    205 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,449 mL
                                                                    -85 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 635 (635 - 635) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   SpO2: 95%
   ABG: ///28/
   Ve: 7.8 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Thin, Anxious
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal) regular
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (decreased BS at bases, R>L, crackles bilaterally
   Abd: + BS, soft, nontender
   Extremities: Right: Absent, Left: Absent
   Skin:  no rashes
   Neurologic: arousable to name, follows commands
   Labs / Radiology
   152 K/uL
   9.4 g/dL
   122 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.7 mEq/L
   11 mg/dL
   103 mEq/L
   140 mEq/L
   26.4 %
   3.8 K/uL
        [image002.jpg]
                             [**2119-8-5**]  12:16 PM
                             [**2119-8-5**]  01:18 PM
                             [**2119-8-5**]  08:40 PM
                             [**2119-8-6**]  04:23 AM
                             [**2119-8-6**]  04:30 PM
                             [**2119-8-7**]  04:06 AM
                             [**2119-8-7**]  08:00 PM
                             [**2119-8-8**]  03:12 AM
                             [**2119-8-8**]  03:05 PM
                             [**2119-8-9**]  04:45 AM
   WBC
   7.1
   6.3
   4.3
   3.8
   Hct
   28.4
   28.5
   28.3
   27.9
   27.9
   26.2
   26.4
   Plt
   [**Telephone/Fax (3) 8384**]52
   Cr
   0.7
   0.7
   0.6
   0.7
   0.6
   TCO2
   20
   27
   Glucose
   126
   99
   111
   131
   122
   Other labs: PT / PTT / INR:17.6/38.9/1.6, CK / CKMB /
   Troponin-T:87//<0.01, ALT / AST:23/23, Alk Phos / T Bili:111/3.5,
   Differential-Neuts:80.3 %, Lymph:15.0 %, Mono:2.4 %, Eos:1.9 %, Lactic
   Acid:1.1 mmol/L, LDH:222 IU/L, Ca++:7.6 mg/dL, Mg++:1.7 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
   50 y.o. M with antiphospholipid syndrome c/b portal vein thrombosis and
   superior mesenteric vein thrombosis with prior partial hepatic vein
   inclusion on Lovenox, grade III esophageal varices, portal gastropathy,
   who presents with BRBPR.
   1. BRBPR: s/p variceal banding and injection into rectal varix. No
   further bleeding and hematocrit has been stable
   -PPI, octreotide gtt (today is last day of gtt)
   -Following hematocrit, has been stable and no bleeding, following daily
   -Hepatology ultimately wants to do colonoscopy after full prep, once
   resp status stabilizes
likely as outpt
   2. Pneumonia/Resp failure: treating for VAP with Zosyn/Cipro/Vanc.
   Both sputum with OP flora. Improved after desaturation from plugging
   yesterday s/p bronch/recruitment maneuver
   -extubated yesterday, varying oxygen requirements, d/c inhalers
   -Diuresing well with several doses of Lasix 10 mg IV
   -change antibiotics back to Ceftriaxone X 8 day total course.
   -OOB, IS
   3. Hypotension:  resolved, BP stable. Can restart nadolol once resp
   status normalizes and safely extubated/tolerating po
   4. Antiphospholipid Syndrome: c/b portal vein thrombosis
   - hold anticoagulation given active bleeding, contact outpatient
   Hematologist re: Lovenox
   5.  Leukocytosis: Likely stress reaction due to GI bleed, now
   normalized/slightly lower
   6.  Hematuria: foley trauma, d/c Foley once more mobile
   ICU Care
   Nutrition: advance diet after swallow challenge. Expect he should be
   able to swallow
   Glycemic Control:
   Lines:
   Multi Lumen - [**2119-8-5**] 02:14 AM
remove today, place PIV
   Prophylaxis:
   DVT: Boots, HSQ
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU, c/o to floor/[**Hospital Ward Name 289**] 10

2119-08-09 09:30:00 Physician Attending Progress Note
Chief Complaint: LGIB, resp failure
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2119-8-8**] 10:30 AM
   extubated, stable
   tolerated diuresis well
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2119-8-7**] 06:46 PM
   Clindamycin - [**2119-8-7**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2119-8-8**] 07:46 AM
   Vancomycin - [**2119-8-8**] 08:15 AM
   Ciprofloxacin - [**2119-8-8**] 09:24 AM
   Ceftriaxone - [**2119-8-9**] 08:00 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2119-8-8**] 02:00 PM
   Haloperidol (Haldol) - [**2119-8-8**] 04:50 PM
   Morphine Sulfate - [**2119-8-8**] 08:00 PM
   Furosemide (Lasix) - [**2119-8-9**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-8-9**] 09:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.1
C (98.8
   HR: 62 (62 - 87) bpm
   BP: 113/64(76) {107/60(72) - 129/78(89)} mmHg
   RR: 14 (12 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
   CVP: 13 (13 - 13)mmHg
   Total In:
                                                                  1,276 mL
                                                                    271 mL
   PO:
   TF:
   IVF:
                                                                  1,276 mL
                                                                    271 mL
   [**Year (4 digits) **] products:
   Total out:
                                                                  3,725 mL
                                                                    248 mL
   Urine:
                                                                  3,725 mL
                                                                    248 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,449 mL
                                                                     23 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   FiO2: 50%
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic,
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal) regular, soft
   ESM apex
   Peripheral Vascular: all present
   Respiratory / Chest: (Breath Sounds: Bronchial: with bibasilar
   crackles, egophony at R base
   Abd: + BS, soft, nontender, distended
   Extremities: no edema
   Skin:  no rashes
   Neurologic: aao x 3
   Labs / Radiology
   9.4 g/dL
   152 K/uL
   122 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.7 mEq/L
   11 mg/dL
   103 mEq/L
   140 mEq/L
   26.4 %
   3.8 K/uL
        [image002.jpg]
                             [**2119-8-5**]  12:16 PM
                             [**2119-8-5**]  01:18 PM
                             [**2119-8-5**]  08:40 PM
                             [**2119-8-6**]  04:23 AM
                             [**2119-8-6**]  04:30 PM
                             [**2119-8-7**]  04:06 AM
                             [**2119-8-7**]  08:00 PM
                             [**2119-8-8**]  03:12 AM
                             [**2119-8-8**]  03:05 PM
                             [**2119-8-9**]  04:45 AM
   WBC
   7.1
   6.3
   4.3
   3.8
   Hct
   28.4
   28.5
   28.3
   27.9
   27.9
   26.2
   26.4
   Plt
   [**Telephone/Fax (3) 8384**]52
   Cr
   0.7
   0.7
   0.6
   0.7
   0.6
   TCO2
   20
   27
   Glucose
   126
   99
   111
   131
   122
   Other labs: PT / PTT / INR:17.6/38.9/1.6, CK / CKMB /
   Troponin-T:87//<0.01, ALT / AST:23/23, Alk Phos / T Bili:111/3.5,
   Differential-Neuts:80.3 %, Lymph:15.0 %, Mono:2.4 %, Eos:1.9 %, Lactic
   Acid:1.1 mmol/L, LDH:222 IU/L, Ca++:7.6 mg/dL, Mg++:1.7 mg/dL, PO4:2.9
   mg/dL
   Imaging: CXR: stable bibasilar fluffly infiltrates, CVL
   Microbiology: spu: op flora
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 HYPOTENSION (NOT SHOCK)
   50 y.o. M with antiphospholipid syndrome c/b portal vein thrombosis and
   superior mesenteric vein thrombosis with prior partial hepatic vein
   inclusion on Lovenox, grade III esophageal varices, portal gastropathy,
   who presents with BRBPR.
   1. BRBPR: s/p variceal banding and injection into rectal varix. No
   further bleeding and hematocrit has been stable.
   - octreotide gtt x 5 days total
   - po ppi
   - outpt colonoscopy
   - Ceftriaxone x 8 days for SBP/pneumonitis
   2. Pneumonia/Resp failure: Incentive [**Location (un) 2600**] for bibasillar atelectasis
   -I/O goal 1L neg
   - never smoked
   - Ceftriaxone x 8 days for SBP/pneumonitis
   3. Antiphospholipid Syndrome: c/b portal vein thrombosis
   - hold anticoagulation given active bleeding, restart when ok with GI
   Rest per resident note
   ICU Care
   Nutrition: ADAT
   Glycemic Control:  Glucose stable
   Lines:
   Multi Lumen - [**2119-8-5**] 02:14 AM: d/c today
   Prophylaxis:
   DVT: Boots, start sq heparin
   Stress ulcer: PPI
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition: trout today
   ------ Protected Section ------
   Patient seen and examined with Dr. [**Last Name (STitle) 691**] and housestaff MICU team.
   Reviewed above note with which I agree.  Would add/emphasize: 50 yo man
   with respiratory failure during EGD for varices, likely aspiration
   PNA.  Much improved, now extubated. Doing well.  Exam significant for
   basilar crackes.
   ROS:  denies SOB and as above.
   A/P:
   LGIB:  from rectal varix now resolved.
   PNA:  8 days of CTX for aspiration
   Antiphospholipid ab syndrome
   35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 347**], MD
   on:[**2119-8-9**] 12:08 ------